US08754100B2
Synthesis of 1-amino-5-hydroxy-3-(2-trifluoromethylphenyl)piperidin-2-one
Methyl 3-oxiranyl-2-(2-trifluoromethylphenyl)propionate (2.61 g) was dissolved in ethanol (20 mL). Hydrazine monohydrate (2.3 mL) was added at room temperature, and the mixture was reacted for 24 hours. Concentration under reduced pressure gave an oil which was partitioned with methylene chloride and water. The aqueous layer was extracted with methylene chloride four times. After drying over magnesium sulfate, concentration under reduced pressure gave the title compound (1.8 g) as a pale yellow solid.

reactant | Methyl 3-oxiranyl-2-(2-trifluoromethylphenyl)propionate | 2.61 g | O1C(C1)CC(C(=O)OC)C1=C(C=CC=C1)C(F)(F)F | C13H13F3O3
reactant | Hydrazine monohydrate | 2.3 mL | O.NN
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1-amino-5-hydroxy-3-(2-trifluoromethylphenyl)piperidin-2-one | 1.8 g | NN1C(C(CC(C1)O)C1=C(C=CC=C1)C(F)(F)F)=O | C12H13F3N2O2
